US07737166B2
4-Cyano-N,N,5-trimethyl-7-[(3R)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#40-3)
Under nitrogen atmosphere, a dimethyl sulfoxide (3 ml) solution of (3R)-3-methylaminopyrrolidine (95 μl, 0.88 mmol) was added at 150° C. to a dimethyl sulfoxide (17 ml) solution of 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-114) (271 mg, 0.838 mmol) and triethylamine (156 μl, 1.09 mmol), followed by stirring at the same temperature for 30 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with chloroform.

reactant | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
reactant | (3R)-3-methylaminopyrrolidine | 0.88 mmol, 95 μl | CN[C@H]1CNCC1 | C5H12N2
reactant | dimethyl sulfoxide | 17 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,N,5-trimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 0.838 mmol, 271 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C18H14FN3O2
reactant | triethylamine | 1.09 mmol, 156 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-N,N,5-trimethyl-7-[(3R)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)N2C[C@@H](CC2)NC)C2=CC=CC=C2)C | C23H25N5O2
